US07494992B2
Preparation 185: 4-amino-6-methyl-2-piperazin-1-ylpyrimidine-5-carbonitrile
A solution of 4-amino-2-chloro-2-methylpyrimidine-5-carbonitrile (Maybridge, 100 mg, 0.6 mmol), piperazine (207 mg, 2.4 mmol), and triethylamine (71 mg, 0.7 mmol) in N,N-dimethylacetamide (20 ml) was heated to 108° C. for 6 h. The reaction mixture was stirred at ambient temperature for 18 h before pouring into water (400 ml) and extracting with ethyl acetate (3×30 ml), and then dichloromethane (20 ml). The combined organic extracts were washed with water (3×150 ml), and then dried (MgSO4) and concentrated to give a yellow solid (120 mg). The crude solid was pre-absorbed onto silica gel (250 mg) and then purified by flash chromatography on silica gel (20 g) eluting with ethyl acetate:methanol (90:10 and then 80:20) to give the title compound as a white solid (28 mg).

reactant | 4-amino-2-chloro-2-methylpyrimidine-5-carbonitrile | 0.6 mmol, 100 mg | NC1=NC(NC=C1C#N)(C)Cl | C6H7ClN4
reactant | piperazine | 2.4 mmol, 207 mg | N1CCNCC1 | C4H10N2
reactant | triethylamine | 0.7 mmol, 71 mg | C(C)N(CC)CC | C6H15N
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 4-amino-6-methyl-2-piperazin-1-ylpyrimidine-5-carbonitrile | 120 mg | NC1=NC(=NC(=C1C#N)C)N1CCNCC1 | C10H14N6
